US06552017B1
To 2,3,6b,7,8,9,10,10a-octahydro-1H-pyrido[3′,4′:4,5]pyrrolo[1,2,3-de]quinoxaline (2.70 g, 10.8 mmol) was added 1N NaOH (40.0 mL) and dioxane (40.0 mL). Boc2O was added in small portions in 30 minute at 0° C. The reaction was stirred at r.t. for 18 hr. The reaction was extracted with CH2Cl2 (3×150 mL). The combined organic layers were washed with brine, dried over MgSO4, and concentrated to afford a residue which was purified by flash column chromatography (Hexane/Ethyl acetate: 50/50) to afford tert-butyl-2,3,6b,9,10,10a-hexahydro-1H-pyrido[3′,4′:4,5]pyrrolo[1,2,3-de]quinoxaline-8(7H)-carboxylate. The racemate could be separated by Chiralcel OD column (5 cm×50 cm, 20 u; IPA/Hexane: 8%) to afford the corresponding enantiomers.

reactant | 2,3,6b,7,8,9,10,10a-octahydro-1H-pyrido[3′,4′:4,5]pyrrolo[1,2,3-de]quinoxaline | 10.8 mmol, 2.70 g | C1CNC=2C=CC=C3C2N1C1C3CNCC1 | C13H17N3
reactant | NaOH | 1N, 40.0 mL | [OH-].[Na+]
reactant | Boc2O | CC(C)(C)OC(=O)OC(=O)OC(C)(C)C | C10H18O5
solvent | dioxane | 40.0 mL | O1CCOCC1 | C4H8O2
product | tert-butyl-2,3,6b,9,10,10a-hexahydro-1H-pyrido[3′,4′:4,5]pyrrolo[1,2,3-de]quinoxaline-8(7H)-carboxylate | C(C)(C)(C)OC(=O)N1CC2C(N3CCNC=4C=CC=C2C34)CC1 | C18H25N3O2
